US08536183B2
(2R)-2-Methyl-4-[(2-methyl-3-pyridinyl)carbonyl]-1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine formic acid salt
To a solution of 2-methyl-3-pyridinecarboxylic acid (47.7 mg, 0.348 mmol) in DCM (2.000 ml) was added HATU (132 mg, 0.348 mmol) and DIPEA (0.152 ml, 0.870 mmol) and the mixture stirred for 15 minutes before addition of (2R)-2-methyl-1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine hydrochloride (Description 6) (100 mg, 0.290 mmol) in DMF (2 ml). The resultant mixture was stirred for 16 h at room temperature then the reaction mixture was then concentrated and the residue taken up in DMSO and purified by reverse phase MDAP. The collected fractions were concentrated in vacuo giving the title compound (80.7 mg) as a white solid.

reactant | 2-methyl-3-pyridinecarboxylic acid | 0.348 mmol, 47.7 mg | CC1=NC=CC=C1C(=O)O | C7H7NO2
reactant | HATU | 0.348 mmol, 132 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.870 mmol, 0.152 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | (2R)-2-methyl-1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine hydrochloride | 0.290 mmol, 100 mg | Cl.C[C@H]1N(CCNC1)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F
solvent | DCM | 2.000 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (2R)-2-Methyl-4-[(2-methyl-3-pyridinyl)carbonyl]-1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine formic acid salt | 80.7 mg | C(=O)O.C[C@H]1N(CCN(C1)C(=O)C=1C(=NC=CC1)C)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C19H20F3N3O3S.CH2O2/c1-13-12-24(18(26)17-4-3-9-23-14(17)2)10-11-25(13)29(27,28)16-7-5-15(6-8-16)19(20,21)22;2-1-3/h3-9,13H,10-12H2,1-2H3;1H,(H,2,3)/t13-;/m1./s1
